US08067362B2
Step 2: Synthesis of 4-{[(2-tert-Butoxycarbonylethyl)-(15-tert-butoxycarbonyl-pentadecanoyl)amino]methyl}benzoic acid
Hexadecanedioic acid mono-tert-butyl ester (0.3 g, 0.88 mmol) was dissolved in ethyl acetate. N-Ethyl-N-(3-dimethylaminopropyl)-carbodiimide hydrochloride (0.167 g, 0.88 mmol) and 1-hydroxy-7-azabenzotriazole (0.119 g, 0.88 mmol) was added and the mixture was stirred at 50° C. for 1 hour. After cooling to room temperature, diisopropylethylamin (0.45 mL, 2.63 mmol) was added followed by 4-[(2-tert-Butoxycarbonylethylamino)methyl]benzoic acid (0.489 g, 1.75 mmol). The mixture was stirred overnight under nitrogen at room temperature. The mixture was separated between ethyl acetate (100 mL) and water (2×50 mL). The organic phase was dried (Na2SO4), solvent removed in vacuo. The crude product was purified by RP-HPLC on C18-column, buffer A: 0.1% TFA, buffer B: MeCN+0.1% TFA; gradient 80-100% B to yield the title compound (145 mg, 27%).

reactant | Hexadecanedioic acid mono-tert-butyl ester | 0.88 mmol, 0.3 g | C(C)(C)(C)OC(CCCCCCCCCCCCCCC(=O)O)=O | C20H38O4
reactant | 1-hydroxy-7-azabenzotriazole | 0.88 mmol, 0.119 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | diisopropylethylamin | 2.63 mmol, 0.45 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-[(2-tert-Butoxycarbonylethylamino)methyl]benzoic acid | 1.75 mmol, 0.489 g | C(C)(C)(C)OC(=O)CCNCC1=CC=C(C(=O)O)C=C1 | C15H21NO4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-{[(2-tert-Butoxycarbonylethyl)-(15-tert-butoxycarbonyl-pentadecanoyl)amino]methyl}benzoic acid | 145 mg, 27% | C(C)(C)(C)OC(=O)CCN(C(CCCCCCCCCCCCCCC(=O)OC(C)(C)C)=O)CC1=CC=C(C(=O)O)C=C1 | C35H57NO7
